US05610162
20-(4-isopropylphenyl)acetyloxy-4-methyl-5α-4-azapregnan-3-one
20-(12-(isopropylthio)dodecanoyloxy)-4-methyl-5α-4-azapregnan-3-one, 20-(11-(ethylsulfinyl)undecanoyloxy)-4-methyl-5α-4-azapregnan-3-one,

reactant | 20-(12-(isopropylthio)dodecanoyloxy)-4-methyl-5α-4-azapregnan-3-one | C(C)(C)SCCCCCCCCCCCC(=O)OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C36H63NO3S
reactant | 20-(11-(ethylsulfinyl)undecanoyloxy)-4-methyl-5α-4-azapregnan-3-one | C(C)S(=O)CCCCCCCCCCC(=O)OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C34H59NO4S
product | 20-(4-isopropylphenyl)acetyloxy-4-methyl-5α-4-azapregnan-3-one | C(C)(C)C1=CC=C(C=C1)CC(=O)OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C32H47NO3
